US08357707B2
Intermediate E: (R)-2-Benzyl-pyrrolidine-2-carboxylic acid amide
A mixture of (3R,7aR)-7a-benzyl-3-trichloromethyl-tetrahydro-pyrrolo[1,2-c]oxazol-1one (1.40 g, prepared as described by Wang and Germanas Synlett 1999, 33-36.) and 7 M ammonia in MeOH (15 ml) was heated at 50° C. for 3 days in a sealed vessel. The cooled RM was then evaporated and triturated with chloroform to give the title compound as a white solid.

reactant | (3R,7aR)-7a-benzyl-3-trichloromethyl-tetrahydro-pyrrolo[1,2-c]oxazol-1one | 1.40 g | C(C1=CC=CC=C1)[C@@]12N([C@H](OC1=O)C(Cl)(Cl)Cl)CCC2 | C14H14Cl3NO2
reactant | ammonia | 7 M | N | H3N
solvent | MeOH | 15 ml | CO | CH4O
product | (R)-2-Benzyl-pyrrolidine-2-carboxylic acid amide | C(C1=CC=CC=C1)[C@@]1(NCCC1)C(=O)N | C12H16N2O
